2121-04-10 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2121-4-9**]:
   - pt very agitated after arriving to the floor, required multiple doses
   of haldol, zyprexa, however morphine seemed to be the best [**Doctor Last Name **].
   - IV team placed PIV, however pt pulled this AM when became agitated
   again
   - Never c/o chest pain during episodes, BPs stable thus did not start
   nitro drip.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2121-4-9**] 09:58 PM
   Haloperidol (Haldol) - [**2121-4-9**] 11:00 PM
   Morphine Sulfate - [**2121-4-10**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-4-10**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 87 (68 - 103) bpm
   BP: 139/54(101) {89/38(51) - 140/64(101)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     21 mL
                                                                     55 mL
   PO:
             TF:
   IVF:
                                                                     21 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    495 mL
   Urine:
                                                                    780 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -759 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: ///23/
   Physical Examination
   Gen: Appears agitated but in NAD.
   HEENT: PERRL, EOMI, conjunctiva pink. OP clear.
   Neck: No Carotid bruit.  JVP difficult to assess
   Lungs: Well-healed scar around the left scapula. ronchi/crackles
   [**1-21**]-way up.  + wheezing
   CV: S1, S2, PMI nondisplaced. no murmurs
   ABD: Soft, NT, ND, + BS's
   EXT: 1+ pedal pulses, no edema
   Neuro: Refusing to answer orientation questions. CN II-XII intact,
   strength 5/5 throughout, sensation intact to light touch throughout
   Labs / Radiology
   169 K/uL
   9.4 g/dL
   138 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   39 mg/dL
   108 mEq/L
   143 mEq/L
   26.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2121-4-10**]  12:06 AM
   WBC
   9.5
   Hct
   26.8
   Plt
   169
   Cr
   1.9
   TropT
   0.46
   Glucose
   138
   Other labs: PT / PTT / INR:15.8/70.5/1.4, CK / CKMB /
   Troponin-T:304/29/0.46, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   80 yo male s/p 2 CABG(LIMA-LAD, known occluded SVG to OM2, SVG to RPDA)
   s/p BMS LCX [**2121-1-28**], now presenting with NSTEMI and flash pulmonary
   edema.
   .
   # NSTEMI: EKG shows lateral defect, likely progression of LCX disease.
   Now with resultant pulmonary edema from ischemia.
   - maximize medical management, plan for invasive management in AM with
   cath if patient can tolerate
   - Continue ASA, Plavix, Statin
   - started heparin gtt last night
   - increased Coreg to 25mg po bid
   - continue Imdur 120mg po daily
   - did not need to start nitro drip overnight, but will if develops CP
   or patient hypertensive
   .
   # Congestive heart failure with depressed EF & acute exacerbation
   - diurese with 40mg IV lasix PRN
   - Morphine for symptomatic relief
   - consider nitro drip as above
   - continue increased dose of coreg
   - hold ACE b/c of renal failure
   .
   # CRI - (Cr 1.8-2.1 in [**2121-1-19**]).
   - Pre- and post-cath and mucomyst per protocol
   - no hydration given CHF
   - Hold [**Last Name (un) **], HCTZ and NSAIDS in anticipation of cath
   .
   # HTN:
   - Continue Imdur and BBker
   .
   #Dyslipidemia:
   - Continue high dose atorvastatin
   .
   # delerium: check UA/UCX.  minimize invasive monitors.  zyprexa/haldol
   prn.
   .
   FEN: Pre-cath hydration with Bicarb per protocol, replete lytes prn,.
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx on Heparin gtt
   -Pain management with Tylenol
   -Bowel regimen with Colace, Senna PRN
   ICU Care
   Nutrition: cardiac low salt diet, NPO for possible cath this AM
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-4-9**] 11:27 PM
   Prophylaxis:
   DVT:  heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition:  CCU

2121-04-11 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Got 1unit prbcs with lasix for hct 26->up to 31.5
   - Got 1mg haldol for agitation in am and then again in pm
   - Refused am po meds including asa and plavix
   - Changed ranitidine to daily because of ARF
   - Cath second case [**2121-4-11**]->will need anesthesia in morning for
   conscious sedation
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2121-4-10**] 11:00 AM
   Morphine Sulfate - [**2121-4-11**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-4-11**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 65 (65 - 116) bpm
   BP: 125/49(67) {112/27(52) - 169/92(104)} mmHg
   RR: 16 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    659 mL
                                                                     51 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    264 mL
                                                                     51 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  2,085 mL
                                                                    280 mL
   Urine:
                                                                  2,085 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,426 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: Appears agitated but in NAD.
   HEENT: PERRL, EOMI, conjunctiva pink. OP clear.
   Neck: No Carotid bruit.  JVP difficult to assess
   Lungs: Well-healed scar around the left scapula. ronchi/crackles
   [**1-21**]-way up.  + wheezing
   CV: S1, S2, PMI nondisplaced. no murmurs
   ABD: Soft, NT, ND, + BS's
   EXT: 1+ pedal pulses, no edema
   Neuro: Refusing to answer orientation questions. CN II-XII intact,
   strength 5/5 throughout, sensation intact to light touch throughout.
   Labs / Radiology
   195 K/uL
   11.8 g/dL
   108 mg/dL
   1.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   47 mg/dL
   107 mEq/L
   145 mEq/L
   34.3 %
   9.8 K/uL
        [image002.jpg]
                             [**2121-4-10**]  12:06 AM
                             [**2121-4-10**]  05:20 PM
                             [**2121-4-11**]  04:38 AM
   WBC
   9.5
   9.8
   Hct
   26.8
   31.5
   34.3
   Plt
   169
   195
   Cr
   1.9
   1.9
   TropT
   0.46
   Glucose
   138
   108
   Other labs: PT / PTT / INR:14.8/66.9/1.3, CK / CKMB /
   Troponin-T:304/29/0.46, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   80 yo male s/p 2 CABG(LIMA-LAD, known occluded SVG to OM2, SVG to RPDA)
   s/p BMS LCX [**2121-1-28**], now presenting with NSTEMI and flash pulmonary
   edema.
   # NSTEMI: EKG shows lateral defect, likely progression of LCX disease.
   CK trending down.
   - currenlty on ASA, plavix, statin, coreg and imdur and heparin gtt
   - if develops CP or patient hypertensive consider nitro ggt
   - plan for cath today; anasthesia c/s to determine if conscious sed v
   intubation
   # Congestive heart failure with EF of 45% in [**2-24**] & acute exacerbation.
   Acute decompensation likely [**1-20**] ischemia.
   - diurese with 40mg IV lasix PRN for sob
   - echo post cath
   - hold ACE b/c of renal failure
   # Complicated UTI: cipro x 7 days. Remove foley post cath.
   # CRI - (Cr 1.8-2.1 in [**2121-1-19**]).  Cre stable at 1.9.
   - Pre- and post-cath and mucomyst per protocol
   - no pre cath hydration given CHF
   - Hold [**Last Name (un) **], HCTZ and NSAIDS in anticipation of cath
   # HTN:   Continue isosorbide mononitrate and carvedilol
   # Dyslipidemia:  Continue high dose atorvastatin
   # Delerium: improved. Prn haldol.
   FEN: Pre-cath hydration with Bicarb per protocol, replete lytes prn,.
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx on Heparin gtt
   -Pain management with Tylenol
   -Bowel regimen with Colace, Senna PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-4-9**] 11:27 PM
   22 Gauge - [**2121-4-10**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Patient interviewed and examined on [**2121-4-11**] on morning rounds with CCU
   team.  I agree with Dr. [**Last Name (STitle) **]
s H+P, A+P.  60 minutes spent on patient
   critical care.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 421**], MD
   on:[**2121-4-12**] 12:19 ------

2121-04-12 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - cath: LAD graft with severe disease; LCx 80% prox zo stent-restented;
   RCA occluded- balloned; OM 90%- balloned
   - post cath check ok
   - haldol x3
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2121-4-11**] 03:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2121-4-11**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-4-12**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 90 (65 - 96) bpm
   BP: 154/55(80) {106/48(63) - 162/94(101)} mmHg
   RR: 26 (14 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,090 mL
                                                                    438 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    790 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    260 mL
   Urine:
                                                                    980 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    110 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: Appears agitated but in NAD.
   HEENT: PERRL, EOMI, conjunctiva pink. OP clear.
   Neck: No Carotid bruit.  JVP difficult to assess
   Lungs: Well-healed scar around the left scapula. ronchi/crackles
   [**1-21**]-way up.  + wheezing
   CV: S1, S2, PMI nondisplaced. no murmurs
   ABD: Soft, NT, ND, + BS's
   EXT: 1+ pedal pulses, no edema
   Neuro: Refusing to answer orientation questions. CN II-XII intact,
   strength 5/5 throughout, sensation intact to light touch throughout.
   Labs / Radiology
   177 K/uL
   11.8 g/dL
   108 mg/dL
   1.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   47 mg/dL
   107 mEq/L
   145 mEq/L
   34.3 %
   9.8 K/uL
        [image002.jpg]
                             [**2121-4-10**]  12:06 AM
                             [**2121-4-10**]  05:20 PM
                             [**2121-4-11**]  04:38 AM
                             [**2121-4-11**]  10:59 PM
   WBC
   9.5
   9.8
   Hct
   26.8
   31.5
   34.3
   Plt
   169
   195
   177
   Cr
   1.9
   1.9
   TropT
   0.46
   Glucose
   138
   108
   Other labs: PT / PTT / INR:14.8/66.9/1.3, CK / CKMB /
   Troponin-T:161/11/0.46, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   80 yo male s/p 2 CABG(LIMA-LAD, known occluded SVG to OM2, SVG to RPDA)
   s/p BMS LCX [**2121-1-28**], now presenting with NSTEMI and flash pulmonary
   edema.
   # NSTEMI: EKG showed lateral defect, likely progression of LCX disease.
   Confirmed by cardiac cath yesterday which showed progression of all 3
   vessels.  Pt underwent balloon angioplasty to RCA, proximal LCx stent
   placement (was 80% stenosed), and the OM had angioplasty as well.  His
   LAD graft showed severe disease.
   - continue medical management with ASA, plavix, statin, coreg and imdur
   - not a candidate for repeat CABG
   - TTE today to eval WMA and EF.
   # Congestive heart failure with EF of 45% in [**2-24**] & acute exacerbation.
   Acute decompensation likely [**1-20**] ischemia.  The patient is currently
   asymptomatic, no sign of recurrent pulmonary edema following cath.
   - diurese with 40mg IV lasix PRN for SOB
   # Complicated UTI: cipro x 7 days.
   - D/C foley today.
   # CRI - (Cr 1.8-2.1 in [**2121-1-19**]).  Cre stable at 1.9 post cath.
   -  continue to hold [**Last Name (un) **], HCTZ and NSAIDS
   # HTN:   Continue isosorbide mononitrate and carvedilol. Add ACEi.
   # Dyslipidemia:  Continue high dose atorvastatin
   # Delerium: Stable. Pull foley, reorient. PRN haldol and zyprexa.
   FEN: Pre-cath hydration with Bicarb per protocol, replete lytes prn,.
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx on Heparin gtt
   -Pain management with Tylenol
   -Bowel regimen with Colace, Senna PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-4-9**] 11:27 PM
   22 Gauge - [**2121-4-10**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Chart reviewed.  Cath results noted.  Patient interviewed and examined
   on CCU rounds.  I agree with Dr. [**Last Name (STitle) **]
s H+P, A+P.  45 minutes of
   patients critical care provided.  ICU level care due to hypoxia and
   delirium.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 421**], MD
   on:[**2121-4-12**] 12:26 ------

2121-04-13 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2121-4-12**] 09:22 AM
   [**2121-4-12**]:
   - PM Hct 27.8, transfuse one unit, give 40mg IV lasix prior, guaiac all
   stools
   - Wrote for PM seroquel 25mg, the patient was much more calm overnight
   - Restarted Losartan at lower dose than home (20, while home 100)
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2121-4-11**] 03:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-4-12**] 06:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-4-13**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 70 (60 - 89) bpm
   BP: 139/54(74) {92/40(57) - 147/117(135)} mmHg
   RR: 19 (12 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,413 mL
                                                                     60 mL
   PO:
                                                                    600 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    438 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,325 mL
                                                                    400 mL
   Urine:
                                                                  1,325 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     88 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: in NAD.
   HEENT: PERRL, EOMI, conjunctiva pink. OP clear.
   Neck: No Carotid bruit.  JVP difficult to assess
   Lungs: Well-healed scar around the left scapula. ronchi/crackles
   [**1-21**]-way up.  + wheezing
   CV: S1, S2, PMI nondisplaced. no murmurs
   ABD: Soft, NT, ND, + BS's
   EXT: 1+ pedal pulses, no edema
   Neuro: Refusing to answer orientation questions. CN II-XII intact,
   strength 5/5 throughout, sensation intact to light touch throughout.
   Labs / Radiology
   189 K/uL
   10.6 g/dL
   141
   1.9 mg/dL
   24 mEq/L
   4.2 mEq/L
   51 mg/dL
   107 mEq/L
   141 mEq/L
   27.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2121-4-10**]  12:06 AM
                             [**2121-4-10**]  05:20 PM
                             [**2121-4-11**]  04:38 AM
                             [**2121-4-11**]  10:59 PM
                             [**2121-4-12**]  05:44 AM
                             [**2121-4-12**]  08:00 AM
                             [**2121-4-12**]  05:01 PM
   WBC
   9.5
   9.8
   8.9
   Hct
   26.8
   31.5
   34.3
   30.3
   27.8
   Plt
   169
   195
   177
   189
   Cr
   1.9
   1.9
   1.9
   TropT
   0.46
   1.60
   Glucose
   138
   108
   122
   141
   Other labs: PT / PTT / INR:14.8/66.9/1.3, CK / CKMB /
   Troponin-T:212/13/1.60, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: TTE showed: The left atrium is moderately dilated. There is
   mild symmetric left ventricular hypertrophy. The left ventricular
   cavity is mildly dilated. Overall left ventricular systolic function is
   moderately-to-severely depressed (LVEF= 30%) secondary to severe
   hypokinesis/akinesis of the inferior and posterior walls. The basal
   inferior septum and inferior free wall are dyskinetic. The anterior
   septum is also hypokinetic. Right ventricular chamber size and free
   wall motion are normal. The aortic valve leaflets (3) are mildly
   thickened but aortic stenosis is not present. Mild (1+) aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   There is no mitral valve prolapse. Mild to moderate ([**12-20**]+) mitral
   regurgitation is seen. The tricuspid valve leaflets are mildly
   thickened. There is mild pulmonary artery systolic hypertension. There
   is no pericardial effusion.
   Assessment and Plan
   80 yo male s/p 2 CABG(LIMA-LAD, known occluded SVG to OM2, SVG to RPDA)
   s/p BMS LCX [**2121-1-28**], now presenting with NSTEMI and flash pulmonary
   edema.
   # NSTEMI: EKG showed lateral defect, likely progression of LCX disease.
   Confirmed by cardiac cath yesterday which showed progression of all 3
   vessels.  Pt underwent balloon angioplasty to RCA, proximal LCx stent
   placement (was 80% stenosed), and the OM had angioplasty as well.  His
   LAD graft showed severe disease.
   - continue medical management with ASA, plavix, statin, coreg and
   imdur. Added back [**Last Name (un) **] as creatinine at baseline.
   - not a candidate for repeat CABG
   - TTE showed EF 30% with severe HK/AK inferior and posterior walls
   post-cath
   # Congestive heart failure with EF of 45% in [**2-24**] & acute exacerbation.
   Acute decompensation likely [**1-20**] ischemia.  The patient is currently
   asymptomatic, no sign of recurrent pulmonary edema following cath.
   - diurese with 40mg IV lasix PRN for SOB
   # Complicated UTI: cipro x 7 days.
   # CRI - (Cr 1.8-2.1 in [**2121-1-19**]).  Cre stable at 1.9 post cath.
   -  continue to hold [**Last Name (un) **], HCTZ and NSAIDS
   # HTN:   Continue isosorbide mononitrate carvedilol and [**Last Name (un) **].
   # Dyslipidemia:  Continue high dose atorvastatin
   # Delerium: Stable. Pull foley, reorient. Does better with seroquel.
   -Pain management with Tylenol
   -Bowel regimen with Colace, Senna PRN
   ICU Care
   Nutrition:  Cardiac diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-4-9**] 11:27 PM
   22 Gauge - [**2121-4-10**] 11:00 AM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Call out to [**Hospital Ward Name 383**] 3 today
   ------ Protected Section ------
   Chart reviewed.  Patinet interviewed and examined on CCU Rounds.  I
   agree with Dr. [**Last Name (STitle) 397**]
s H+P, A+P.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 421**], MD
   on:[**2121-4-13**] 10:41 ------